US07230098B2
To a stirred solution of [4-(6-amino-5-hydroxy-pyridin-3-yl)-phenyl]-[(2R)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl]-methanone (100 mg, 0.27 mmol) in anhydrous DMF(15 mL) under a N2 atmosphere containing, at 0° C., sodium hydride (60% dispersion in mineral oil, 11 mg, 0.49 mmol) was added. The mixture was allowed to stir at 0° C. for 30 min. 1-(Bromomethyl)-4-fluoro-2-(trifluoromethyl)benzene (0.046 mL, 0.27 mmol) was added. The mixture was stirred at room temperature for 2 hr. The reaction was diluted with EtOAc, and partitioned with H2O. The aqueous layer was extracted with EtOAc (2×25 mL). The organic layers were combined, washed with H2O (1×15 mL), brine (1×15 mL), dried over MgSO4, filtered, concentrated, and purified on a silica gel column to yield {4-[6-amino-5-(4-fluoro-2-trifluoromethyl-benzyloxy)-pyridin-3-yl]-phenyl)[(2R)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl]-methanone as off-white crystals.

reactant | [4-(6-amino-5-hydroxy-pyridin-3-yl)-phenyl]-[(2R)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl]-methanone | 0.27 mmol, 100 mg | NC1=C(C=C(C=N1)C1=CC=C(C=C1)C(=O)N1[C@H](CCC1)CN1CCCC1)O | C21H26N4O2
reactant | sodium hydride | 0.49 mmol, 11 mg | [H-].[Na+]
reactant | 1-(Bromomethyl)-4-fluoro-2-(trifluoromethyl)benzene | 0.27 mmol, 0.046 mL | BrCC1=C(C=C(C=C1)F)C(F)(F)F | C8H5BrF4
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {4-[6-amino-5-(4-fluoro-2-trifluoromethyl-benzyloxy)-pyridin-3-yl]-phenyl)[(2R)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl]-methanone | NC1=C(C=C(C=N1)C1=CC=C(C=C1)C(=O)N1[C@H](CCC1)CN1CCCC1)OCC1=C(C=C(C=C1)F)C(F)(F)F | C29H30F4N4O2
